US07666888B2
N,N-Diethyl-5-(4-methoxyphenyl)isoxazole-4-carboxamide
The title compound was prepared from 5-(4-methoxyphenyl)isoxazole-4-carboxylic acid (11.0 mg, 0.050 mmol) and diethylamine (4.4 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (7.8 mg). MS (pos) m/z 275.2 (M+1).

reactant | 5-(4-methoxyphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.0 mg | COC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO4
reactant | diethylamine | 0.060 mmol, 4.4 mg | C(C)NCC | C4H11N
product | N,N-Diethyl-5-(4-methoxyphenyl)isoxazole-4-carboxamide | C(C)N(C(=O)C=1C=NOC1C1=CC=C(C=C1)OC)CC | C15H18N2O3
